US07888354B2
(2) Preparation of (4-fluorophenyl)[1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazol-4-yl]methanone
To a solution of 1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazole-4-carboxylic acid methoxymethylamide obtained in Example 23-(1) (0.25 g) in tetrahydrofuran (3 mL), a solution of 4-fluorophenylmagnesium bromide in tetrahydrofuran (1.0 M, 4.0 mL) was added dropwise in an ice bath and stirred at room temperature for 2 hours. The reaction mixture was diluted with saturated aqueous ammonium chloride and extracted with chloroform. The organic layer was dried over sodium sulfate and concentrated under reduced pressure, and the resulting residue was purified by NH-type silica gel column chromatography (eluting solvent: hexane:ethyl acetate=5:1 to 4:1) and silica gel column chromatography (eluting solvent: chloroform:methanol=95:5) to give the titled compound (0.11 g) as a light-blue solid.

reactant | 1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazole-4-carboxylic acid methoxymethylamide | COCNC(=O)C=1C=NN(C1)C1=CC=C(C=C1)OCCCN1[C@@H](CCC1)C | C20H28N4O3
reactant | 4-fluorophenylmagnesium bromide | FC1=CC=C(C=C1)[Mg]Br
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.0 M, 4.0 mL | O1CCCC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | (4-fluorophenyl)[1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazol-4-yl]methanone | 0.11 g | FC1=CC=C(C=C1)C(=O)C=1C=NN(C1)C1=CC=C(C=C1)OCCCN1[C@@H](CCC1)C | C24H26FN3O2
